US04404137
Ethyl 1,5-dimethyl-3-(4-fluoro-2-nitroanilino)pyrazole-4-carboxylate
Ethyl 3-amino-1,5-dimethylpyrazole-4-carboxylate (5.5 g), 2,5-difluoronitrobenzene (6.6 g) and anhydrous potassium carbonate (8.9 g), were stirred in dimethylsulphoxide (60 ml) under dry nitrogen at 70° C. for 20 hours. The mixture was poured on to 300 ml of ice-cold dilute hydrochloric acid, extracted with chloroform (3x), washed with water (2x), dried with magnesium sulphate and the solvent evaporated under reduced pressure. The yellow-brown residue was crystallised from ethanol to give the title compound having a m.p. 174° C.

reactant | Ethyl 3-amino-1,5-dimethylpyrazole-4-carboxylate | 5.5 g | NC1=NN(C(=C1C(=O)OCC)C)C | C8H13N3O2
reactant | 2,5-difluoronitrobenzene | 6.6 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 8.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulphoxide | 60 ml | CS(=O)C | C2H6OS
product | Ethyl 1,5-dimethyl-3-(4-fluoro-2-nitroanilino)pyrazole-4-carboxylate | CN1N=C(C(=C1C)C(=O)OCC)NC1=C(C=C(C=C1)F)[N+](=O)[O-] | C14H15FN4O4
